US07553836B2
Step C. Preparation of N-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(phenethylthio)-1H-pyrrole-2-carboxamide
To a solution of 4-(phenethylthio)-1H-pyrrole-2-carboxylic acid (25.0 mg, 0.101 mmol) and 1-(4-amino-2-methoxyphenoxy)-2-methylpropan-2-ol (21.4 mg, 0.101 mmol) in dichloroethane (0.880 mL) was added EDC (38.8 mg, 0.202 mmol) and HOBT (30.9 mg, 0.202 mmol) and the reaction was allowed to stir at rt for 16 h. The reaction mixture was diluted with EtOAc (15 mL), washed with sat. NaHCO3 (3×20 mL), water, brine, dried over anhydrous Na2SO4, concentrated and purified by preparative HPLC: Phenomenex Luna AXIA 5μ C18 21.2×100 mm, 15 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 5 min hold; 20 mL/min, UV detection at 220 nm, 10.739 min retention time to afford 21.3 mg of the title compound as brown solid: 1H NMR (500 MHz, CDCl3) δ 1.34 (s, 6H), 2.85-2.97 (m, 4H), 3.81 (s, 2H), 3.85 (s, 3H), 6.67 (br. s., 1H), 6.88 (d, J=8.8 Hz, 1H), 6.95 (dd, J=8.8, 2.2 Hz, 1H), 7.02 (s, 1H), 7.15-7.23 (m, 3H), 7.24-7.32 (m, 2H), 7.37 (s, 1H), 7.55 (d, J=3.8 Hz, 1H), 9.83 (br. s., 1H);); HPLC a) column: Phenomenex Luna 5μ 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% H3PO4 to 90% MeOH/10% H2O/0.1% H3PO4; 1 min hold, 4 mL/min UV detection at 220 nm, 3.650 min retention time, (>98%); HPLC b) column: Phenomenex Luna C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 1 min hold; 4 mL/min, UV detection at 220 nm, 3.660 min retention time; MS (ES) 441 [M+H]+.

reactant | 4-(phenethylthio)-1H-pyrrole-2-carboxylic acid | 0.101 mmol, 25.0 mg | C(CC1=CC=CC=C1)SC=1C=C(NC1)C(=O)O | C13H13NO2S
reactant | 1-(4-amino-2-methoxyphenoxy)-2-methylpropan-2-ol | 0.101 mmol, 21.4 mg | NC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H17NO3
reactant | EDC | 0.202 mmol, 38.8 mg
reactant | HOBT | 0.202 mmol, 30.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloroethane | 0.880 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(phenethylthio)-1H-pyrrole-2-carboxamide | 21.3 mg | OC(COC1=C(C=C(C=C1)NC(=O)C=1NC=C(C1)SCCC1=CC=CC=C1)OC)(C)C | C24H28N2O4S
